data/mechanisms/records/IMS8-EQ8.1a.json
{"mechanism_id": "IMS8-EQ8.1a", "species": [{"species_id": "pent_1_ene_radical_cation", "mapped_smiles": "[CH2:1][CH+:2][CH2:3][CH2:4][CH3:5]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "pent_2_ene_radical_cation", "mapped_smiles": "[CH3:1][CH+:2][CH:3][CH2:4][CH3:5]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["pent_1_ene_radical_cation"]}, {"state_id": "state_products", "species_ids": ["pent_2_ene_radical_cation"]}], "steps": [{"step_id": "step_h_shift_1_3", "from_state": "state_precursor", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [1]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 1}], "reaction_smirks": null, "reversible": true}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_h_shift_1_3", "support_type": "textbook_proposed", "locator": {"page": 137, "equation": "8.1", "section": "8.1 Unimolecular ion decompositions"}, "confidence": 0.75, "curator_note": "Eq 8.1, left-column double-arrow equilibrium labeled 'rH' with delta(dHf) = -0.6 eV connecting the top structure (pent-2-ene molecular ion, dHf/IE 8.7(9.0)) and the middle structure (pent-1-ene molecular ion, drawn folded with the transferring H flagged, (30%), dHf/IE 9.3(9.5)). This is an isomerization (double-bond migration), not a fragmentation: a 1,3-hydrogen shift interconverts the two C5H10 radical cations. Book draws 0 curved arcs on this page (it is an energetics/reaction scheme, not an arrow-pushing figure). A faithful 1,3-H ATOM transfer needs 3 fishhooks (odd electron -> forming C-H, gamma C-H -> forming C-H, that C-H -> the vacated carbon); the migrating H cannot be atom-mapped because RDKit folds any mapped explicit H into implicit valence, so only the surviving heavy-atom change is encoded: the odd electron relocating from C1 to C3 (a single fishhook atom(1)->atom(3)). The H migrates the opposite way (C3->C1) and is written implicitly in the product SMILES (C1: .CH2 -> CH3; C3: CH2 -> .CH). LOCALIZATION (convention C): both C5H10(+.) ions are drawn by McLafferty as intact alkenes with a delocalized (+.); encoded here as the opened (distonic) localized resonance form (cation on C2, odd electron on the terminal that carries it) so the arrow has a real origin. Direction shown 1-pentene -> 2-pentene to match the MOD rule; the page draws it as an equilibrium (reversible)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "electron_energy_ev": 70.0, "precursor_mz": 70.0777, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
